US06017919
2-Bromo-3-hydroxy-4-methoxybenzaldehyde (225.2 g, 975 mmol) and DMF (660 ml) were mixed, and potassium carbonate (148.2 g, 1.07 mol) and bromopentane (133 ml, 1.07 mol) were successively added to this solution. The mixture was stirred at 90° C. for 1.5 hours and cooled to room temperature. Water (800 ml) was added to stop the reaction. The aqueous layer was extracted successively with diethyl ether (1000 ml, 500 ml) and ethyl acetate (500 ml). The organic layers were combined, washed successively with water (200 ml) and saturated brine (200 ml) and dried over anhydrous sodium sulfate. The drying agent was filtered off, and the filtrate was concentrated under reduced pressure to give a crude product of 2-bromo4-methoxy-3-pentyloxybenzaldehyde.

reactant | 2-Bromo-3-hydroxy-4-methoxybenzaldehyde | 975 mmol, 225.2 g | BrC1=C(C=O)C=CC(=C1O)OC | C8H7BrO3
reactant | DMF | 660 ml | CN(C)C=O | C3H7NO
reactant | potassium carbonate | 1.07 mol, 148.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromopentane | 1.07 mol, 133 ml | BrCCCCC | C5H11Br
solvent | Water | 800 ml | O | H2O
product | 2-bromo4-methoxy-3-pentyloxybenzaldehyde | BrC1=C(C=O)C=CC(=C1OCCCCC)OC | C13H17BrO3
